US06075144
N-[(3-methylpropyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine
N-(4-chlorobenzyloxy)-1,2,3,4-tetrahydro-9-acridinamine N-(4-furylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine N-(2-furylmethoxy)-1,2,3,4-tetrahydro-6-trifluoromethyl-9-acridinamine N-(2-furylmethoxy)-7-nitro-1,2,3,4-tetrahydro-9-acridinamine N-(2-thienylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine 7-dimethylamino-N-(2-thienylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine N-[(2-phenylethyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine N-[[2-(3,4-dimethoxyphenyl)ethyl]oxyl-1,2,3,4-tetrahydro-9-acridinamine N-[(2-dimethylaminocthyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine N-[(3-dimethylaminopropyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine N-[(4,4-diphenylbutyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine N-[(4,4-[bis(4-fluorophenyl)butyl ]oxy] -1,2,3,4-tetrahydro-9-acridinamine N-acctyl-N-benzyloxy-1,2,3,4-tetrahydro-9-acridinamine N-benzyloxy-N-methyl-1,2,3,4-tetrahydro-9-acridinamine N-hydroxy-7,8,9,10-tetrahydro-6H-cyclohepta[b]quinolin-11-amine N-methoxy-7,8,9,10-tetrahydro-6H-cyclohepta[b]quinolin-11-amine N-benzyloxy-7,8,9,10-tetrahydro-6H-cyclohepta[b]quinolin-11-amine 2,3-dihydro-N-hydroxy-1H-cyclopenta[b]quinolin-9-amine 2,3-dihydro-N-methoxy-1H-cyclopenta[b]quinolin-9-amine and 2,3-dihydro-N-benzyloxy-1H-cyclopenta[b]quinoline-9-amine

reactant | N-(4-chlorobenzyloxy)-1,2,3,4-tetrahydro-9-acridinamine N-(4-furylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine N-(2-furylmethoxy)-1,2,3,4-tetrahydro-6-trifluoromethyl-9-acridinamine N-(2-furylmethoxy)-7-nitro-1,2,3,4-tetrahydro-9-acridinamine N-(2-thienylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine 7-dimethylamino-N-(2-thienylmethoxy)-1,2,3,4-tetrahydro-9-acridinamine N-[(2-phenylethyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine | C1(=CC=CC=C1)CCONC=1C2=CC=CC=C2N=C2CCCCC12.CN(C1=CC=C2N=C3CCCCC3=C(C2=C1)NOCC=1SC=CC1)C.S1C(=CC=C1)CONC=1C2=CC=CC=C2N=C2CCCCC12.O1C(=CC=C1)CONC=1C2=CC(=CC=C2N=C2CCCCC12)[N+](=O)[O-].O1C(=CC=C1)CONC=1C2=CC=C(C=C2N=C2CCCCC12)C(F)(F)F.O1C=CC(=C1)CONC=1C2=CC=CC=C2N=C2CCCCC12.ClC1=CC=C(CONC=2C3=CC=CC=C3N=C3CCCCC23)C=C1
reactant | 2,3-dihydro-N-benzyloxy-1H-cyclopenta[b]quinoline-9-amine | C(C1=CC=CC=C1)ONC1=C2C(=NC=3C=CC=CC13)CCC2 | C19H18N2O
product | N-[(3-methylpropyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine | CCCCONC=1C2=CC=CC=C2N=C2CCCCC12 | C17H22N2O
